US06319925B1
0,35 g (0,5 mmol) Pd[TPP]2Cl2 and 0.12 g (=0.6 mmol) of copper(I) iodide and, with stirring in the course of a few minutes, 10.7 g (=0.13 mmol) of 1-methyl-3-butyn-1-ol are added to a solution of 21.3 g (=0.1 mol) of 4-bromophenylacetone in 250 ml of triethylamine. The mixture is warmed to 55° C. and the temperature is allowed slowly to rise to 80° C. during the course of 4 hours. After cooling, the mixture is filtered and the filtrate is concentrated. The oil which remains is chromatographed on silica gel. 17.4 g (90.3% of theory) of 4-(3-hydroxy-3-methyl-1-butynyl)phenylacetone are obtained; m.p. 67-69° C.

reactant | 1-methyl-3-butyn-1-ol | 0.13 mmol, 10.7 g | CC(CC#C)O | C5H8O
reactant | 4-bromophenylacetone | 0.1 mol, 21.3 g | BrC1=CC=C(C=C1)CC(C)=O | C9H9BrO
reactant | triethylamine | 250 ml | C(C)N(CC)CC | C6H15N
catalyst | copper(I) iodide | 0.6 mmol, 0.12 g | [Cu]I
product | 4-(3-hydroxy-3-methyl-1-butynyl)phenylacetone | 17.4 g, 90.3% | OC(C#CC1=CC=C(C=C1)CC(C)=O)(C)C | C14H16O2
